US07897619B2
3-Fluoroisoquinolin-6-ylboronic acid:
A solution of 6-bromo-3-fluoroisoquinoline (9.10 g, 40.3 mmol) and triethylborate (11.8 g, 80.5 mmol) in THF (100 mL) was cooled to −78° C. Butyllithium (1.6 M in hexanes 50.3 mL, 80.5 mmol) was added dropwise over 45 minutes. Over the course of the addition, the solution changed color from colorless to a light tan. The solution was stirred at −78° C. for 3 hours. The mixture was quenched with HCl (5 N, 120 mL) while in the cold bath at −78° C., diluted with water (100 mL), and then extracted with EtOAc (3×200 mL). The combined organic layers were dried over Na2SO4, filtered and evaporated. The solid residue was triturated with DCM (200 mL), and the solid was recovered by filtration to provide the title compound (6.0 g, 78%). LCMS (API-ES) m/z: 192 (M+H+).

reactant | 6-bromo-3-fluoroisoquinoline | 40.3 mmol, 9.10 g | BrC=1C=C2C=C(N=CC2=CC1)F | C9H5BrFN
reactant | triethylborate | 80.5 mmol, 11.8 g | C(C)OB(OCC)OCC | C6H15BO3
reactant | Butyllithium | 80.5 mmol, 1.6 M, 50.3 mL | C(CCC)[Li]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-Fluoroisoquinolin-6-ylboronic acid | 6.0 g, 78% | FC=1N=CC2=CC=C(C=C2C1)B(O)O | C9H7BFNO2
